US07622466B2
d) [5-(3-Chloro-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
The solution of 1.3 g (2.8 mmol) 5-(3-chloro-propoxy)-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester in 15 ml dichloromethane was cooled down to 0° C., then 4.2 ml (6.3 g, 55.5 mmol) trifluoroacetic acid was added and the cooling bath was removed. After 1.5 hours the solution was cooled again down to 0° C. and 60 ml of an aqueous 1M sodium hydroxide solution was added slowly. The solution was extracted three times with dichloromethane, the combined organic layers were washed with brine, dried over magnesium sulfate, filtered and 50 ml n-heptane) was added. The dichloromethane was evaporated at a rotary evaporator and the resulting suspension was filtered and washed with n-heptane and the colorless solid (0.92 g, 93%) was dried under high vacuum.

reactant | 5-(3-chloro-propoxy)-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCCCCl)C(=O)N2CCC(CC2)(F)F | C21H26ClF2N3O4
reactant | trifluoroacetic acid | 55.5 mmol, 4.2 ml, 6.3 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | [5-(3-Chloro-propoxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | ClCCCOC=1C=C2C(=NC1)NC(=C2)C(=O)N2CCC(CC2)(F)F | C16H18ClF2N3O2
